US08580762B2
Step 2: Synthesis of (1R,2S,3R,5R)-3-((6-chloro-5-(2,2-diethoxyethyl)pyrimidin-4-yl)amino)-5-(hydroxymethyl)cyclopentane-1,2-diol
A mixture of 4,6-dichloro-5-(2,2-diethoxyethyl)pyrimidine (5.35 g, 20.2 mmol) and (1R,2S,3R,4R)-2,3-dihydroxy-4-(hydroxymethyl)cyclopentanaminium chloride (9.29 g, 24.3 mmol) was taken up in ethanol (236 mL), treated with Et3N (11.2 mL, 80.8 mmol) and heated at reflux for 23 h; HPLC/LC MS indicated consumption of starting materials and presence of product. The reaction mixture was concentrated to afford a tan slurry, which was carried on crude: MS (ESI+) for C16H26ClN3O5 m/z 376.2 (M+H)+; MS (ESI−) for C16H26ClN3O5 m/z 374.2 (M−H)−; HPLC purity >95% (ret. time, 2.436 min). Variation on route from J. Med. Chem. 10, 665 (1967).

reactant | 4,6-dichloro-5-(2,2-diethoxyethyl)pyrimidine | 20.2 mmol, 5.35 g | ClC1=NC=NC(=C1CC(OCC)OCC)Cl | C10H14Cl2N2O2
reactant | (1R,2S,3R,4R)-2,3-dihydroxy-4-(hydroxymethyl)cyclopentanaminium chloride | 24.3 mmol, 9.29 g | [Cl-].O[C@H]1[C@@H](C[C@@H]([C@H]1O)CO)[NH3+]
reactant | Et3N | 80.8 mmol, 11.2 mL | CCN(CC)CC | C6H15N
solvent | ethanol | 236 mL | C(C)O | C2H6O
product | (1R,2S,3R,5R)-3-((6-chloro-5-(2,2-diethoxyethyl)pyrimidin-4-yl)amino)-5-(hydroxymethyl)cyclopentane-1,2-diol | ClC1=C(C(=NC=N1)N[C@H]1[C@@H]([C@@H]([C@H](C1)CO)O)O)CC(OCC)OCC | C16H26ClN3O5
